US07977481B2
Step 1: Synthesis of (2-Oxo-propyl)-[5-(2-m-tolylamino-pyrimdin-4-yl)-thiophen-2-yl]-carbamic acid tert-butyl ester
[5-(2-m-Tolylamino-pyrimdin-4-yl)-thiophen-2-yl]-carbamic acid tert-butyl ester (30 mg, 0.078 mmol) was dissolved in DMF (0.8 mL) and 60% NaH (4.7 mg, 0.117 mmol) was added. After 8 min., KI (12.9 mg, 0.078 mmol) and chloroacetone (9.4 uL, 0.117 mmol) were added and the reaction was heated to 60° C. for 15 h. The reaction was ˜60% converted and an additional aliquot of 60% NaH (3.1 mg, 0.078 mmol) and chloroacetone (6.2 uL, 0.078 mmol) were added and reaction heated at 60° C. for another 18 h. The reaction was concentrated in vacuo and taken to the next step crude.

reactant | [5-(2-m-Tolylamino-pyrimdin-4-yl)-thiophen-2-yl]-carbamic acid tert-butyl ester | 0.078 mmol, 30 mg | C(C)(C)(C)OC(NC=1SC(=CC1)C1=NC(=NC=C1)NC=1C=C(C=CC1)C)=O | C20H22N4O2S
reactant | NaH | 0.117 mmol, 4.7 mg | [H-].[Na+]
reactant | chloroacetone | 0.117 mmol, 9.4 uL | ClCC(C)=O | C3H5ClO
reactant | NaH | 0.078 mmol, 3.1 mg | [H-].[Na+]
reactant | chloroacetone | 0.078 mmol, 6.2 uL | ClCC(C)=O | C3H5ClO
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
product | (2-Oxo-propyl)-[5-(2-m-tolylamino-pyrimdin-4-yl)-thiophen-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C=1SC(=CC1)C1=NC(=NC=C1)NC=1C=C(C=CC1)C)CC(C)=O)=O | C23H26N4O3S
